US05547972
1-(4-Chlorophenyl)-1-methylethylamine hydrochloride (4.0 g) was reacted with 8-bromooctanoyl chloride (4.7 g) in dichloromethane (50 ml) containing triethylamine (8.1 ml), in a similar manner to Example 52b, to give 8-bromo-N-[1-(4-chlorophenyl)-1-methylethyl]octanamide which was used directly in part c).

reactant | 1-(4-Chlorophenyl)-1-methylethylamine hydrochloride | 4.0 g | Cl.ClC1=CC=C(C=C1)C(C)(C)N
reactant | 8-bromooctanoyl chloride | 4.7 g | BrCCCCCCCC(=O)Cl | C8H14BrClO
reactant | triethylamine | 8.1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 8-bromo-N-[1-(4-chlorophenyl)-1-methylethyl]octanamide | BrCCCCCCCC(=O)NC(C)(C)C1=CC=C(C=C1)Cl | C17H25BrClNO
